US05438052
Boron trifluoride diethyl etherate (2 ml) are added dropwise at 0° C. to a suspension of 305 mg (1.12 mmol) of 7-aminocephalosporanic acid and 318 mg (1.25 mmol of N-hydroxy-5-mercapto-2-methyl-s-triazolo[1,5-a]pyrimidine-5-propionamide in 4 ml of dichloromethane/sulpholane (1:1 v/v). Subsequently, the mixture is stirred at room temperature for 16 hours. The solution is treated with 50 ml of dichloromethane. A beige substance crystallizes out. It is filtered off, washed with diethyl ether and dissolved in 5 ml of water. The solution is adjusted to about pH 4 with aqueous sodium hydrogen carbonate solution. The product is crystallized by the addition of about 100 ml of ethanol. The crystals are filtered off, washed with ethanol and dried at room temperature in a high vacuum. There are obtained 311 mg of (6R,7R)-7-amino-3-[[[5-[2-(hydroxycarbamoyl)ethyl]-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | Boron trifluoride diethyl etherate | 2 ml | B(F)(F)F.CCOCC
reactant | 7-aminocephalosporanic acid | 1.12 mmol, 305 mg | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | N-hydroxy-5-mercapto-2-methyl-s-triazolo[1,5-a]pyrimidine-5-propionamide | 1.25 mmol | ONC(CCC1(N=C2N(C=C1)NC(=N2)C)S)=O | C9H13N5O2S
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | dichloromethane sulpholane | 4 ml | ClCCl.S1(=O)(=O)CCCC1
product | (6R,7R)-7-amino-3-[[[5-[2-(hydroxycarbamoyl)ethyl]-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 311 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C)CCC(NO)=O | C17H19N7O5S2
